US06680317B2
N-[4-Chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-bromophenyl)thiourea
To a solution of N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-bromophenyl)thiourea (500 mg, 1.07 mmol) in THF (20 mL), tert-butyldimethylsilyl chloride (810 mg, 5.35 mmol) and imidazole (144 mg, 2.14 mmol) were added. The reaction mixture was stirred at room temperature for 16 hours. Then it was partitioned between ethyl acetate and water. The combined organic phase was dried and concentrated. Chromatography of the residue on silica gel (30% Ethyl acetate/Hexane) gave desired product (240 mg, 40%) and recovered starting material (280 mg). EI-MS m/z 580 (M+).

reactant | N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-bromophenyl)thiourea | 1.07 mmol, 500 mg | ClC1=C(C(=C(C=C1)NC(=S)NC1=C(C=CC=C1)Br)O)S(=O)(=O)N(C)C | C15H15BrClN3O3S2
reactant | tert-butyldimethylsilyl chloride | 5.35 mmol, 810 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.14 mmol, 144 mg | N1C=NC=C1 | C3H4N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N-[4-Chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-bromophenyl)thiourea | 240 mg, 40% | ClC1=C(C(=C(C=C1)NC(=S)NC1=C(C=CC=C1)Br)O[Si](C)(C)C(C)(C)C)S(=O)(=O)N(C)C | C21H29BrClN3O3S2Si
